US08124617B2
ethyl 5,6-diaminonicotinate
To a solution (150 ml) of ethyl 6-amino-5-nitronicotinate (5.0 g) and 6N aqueous calcium chloride solution (50 ml) in ethanol was added zinc powder (77 g) with heating under reflux. The reaction mixture was heated under reflux for 2 hr, and the zinc powder was removed by filtration. The filtrate was concentrated, diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated to give the title compound (3.85 g, yield 89%) as pale-brown crystals. 1H NMR (DMSO-d6) δ: 1.37 (3H, t, J=7.0 Hz), 4.38 (2H, q, J=7.1 Hz), 4.95 (2H, s), 6.28 (2H, s), 7.15 (1H, d, J=2.1 Hz), 7.94 (1H, d, J=2.1 Hz).

reactant | ethyl 6-amino-5-nitronicotinate | 150 ml, 5.0 g | NC1=NC=C(C(=O)OCC)C=C1[N+](=O)[O-] | C8H9N3O4
reactant | calcium chloride | 6N, 50 ml | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | C(C)O | C2H6O
catalyst | zinc | 77 g | [Zn] | Zn
product | ethyl 5,6-diaminonicotinate | 3.85 g, yield 89% | NC=1C(=NC=C(C(=O)OCC)C1)N | C8H11N3O2
